US04276294
The starting material is prepared as follows: To the solution of 1,032 g of sodium methoxide in 12,000 ml of methanol 2,361 g of 4-methoxyphenol are added while stirring under nitrogen at 40°. After 30 minutes 4,100 g of methyl α-bromophenylacetate are added during 10 minutes and the mixture is refluxed for 5 hours. It is combined with 14,000 ml of 2 N aqueous sodium hydroxide and refluxing is continued for an additional hour. The mixture is stirred at room temperature overnight, diluted with 14,000 ml of water at 65° and 3,000 ml of concentrated hydrochloric acid are added during 1 hour. Stirring is continued for 2 hours at room temperature, the precipitate formed is filtered off and washed 3 times with 4,000 ml of water, to yield the α-(4-methoxyphenoxy)-phenylacetic acid melting at 108°-110°.

reactant | sodium methoxide | 1,032 g | C[O-].[Na+]
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | methyl α-bromophenylacetate | 4,100 g | BrC(C(=O)OC)C1=CC=CC=C1 | C9H9BrO2
reactant | sodium hydroxide | 2 N, 14,000 ml | [OH-].[Na+]
reactant | hydrochloric acid | 3,000 ml | Cl | ClH
solvent | methanol | 12,000 ml, 2,361 g | CO | CH4O
solvent | water | 14,000 ml | O | H2O
product | α-(4-methoxyphenoxy)-phenylacetic acid | COC1=CC=C(OC(C(=O)O)C2=CC=CC=C2)C=C1 | C15H14O4
